Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
DVT
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 ___ with PMHx of ___ mutation with multiple complications who 
presents for RLE DVT x2 weeks. He reports that approximately 2 
weeks ago he notes worsening swelling and pain in his RLE, which 
prompted him to present to ___ where he was found to have an 
extensive network of DVTs. His INR was 1.9 at that time, and his 
warfarin was increased, and he was discharged. Since that time, 
he has been taking warfarin ___ QHS. He reports prior to his 
initial presentation that he was taking his warfarin reliably 
every night.  
 He returned to ___ today for continued pain and swelling of his 
leg, and was transferred for further evaluation. Bilateral 
___ showed extensive, non-occlusive, sub-acute DVTs of 
bilateral ___ with loss of respiratory variation concerning for 
more proximal occlusion. CT pelvis showed no large definite 
occluding thrombus, but this was in contrast to thrombi seen on 
LENIs.  
 Notably, the patient almost died from extensive PE's when he 
was ___ and was admitted (? BWH) for this and mesenteric ischemia 
that necessitated small bowel resection. He had an IVC filter 
placed at that time which has never been removed.  
 In the ED, initial vitals were: T 97.9 , HR 70, BP 127/83, RR 
15, O2 97% RA  
 - Exam notable for: RLE with mild swelling, TTP throughout 
thigh. WWP with DP, ___ pulses intact. B/l ___ have chronic venous 
stasis changes over ant. shins and purple discoloration of feet. 
 
 - Labs notable for: CO2 21, SCr 0.6, CK 52, INR 3.0  
 - Imaging was notable for:  
 LENIs:  
 "1. Bilateral nonocclusive DVTs involving the common femoral 
veins extending into the mid and distal superficial femoral 
veins. Chronicity of these DVTs is difficult to assess.  
 2. Lack of respiratory variation in the common femoral veins 
bilaterally suggestive of possible upstream thrombus."  

REVIEW OF SYSTEMS:  
(+) Per HPI  
(-) 10 point ROS reviewed and negative unless stated above in 
HPI  
 
Past Medical History:
- ___ mutation c/b multiple PEs and DVTs, mesenteric ischemia 
s/p small bowel resection, s/p IVC filter on chronic AC  
- HTN  
 
Social History:
___
Family History:
Mother with ___ mutation and evidence of thromboses, sister 
with ___ mutation without associated thromboses. Patient has 
no children.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VITAL SIGNS: 97.9 149/88 70 16 98% RA  
GENERAL: WDWN, no acute distress  
HEENT: PERRL, OP clear without lesions  
NECK: supple, no JVD  
CARDIAC: RRR, no MRG  
LUNGS: CTAB without wheezing  
ABDOMEN: soft, nt, nd, well healed surgical scar  
EXTREMITIES: wwp, 2+ DP pulses, chronic venous stasis changes to 
bilateral ___ with palpable cords in bilateral calves with 
associated ttp, no peripheral edema  
NEUROLOGIC: AOx3, CN2-12 intact, ___ motor strength in bilateral 
upper and lower extremities  
SKIN: chronic venous stasis changes of bilateral LEs, no 
associated ulcers of feet or toes  

DISCHARGE PHYSICAL EXAM:
VS: Tmax 98.3 Tc 98.1 HR ___ BP ___ RR 18 O2Sat >96% 
RA  
GENERAL: WDWN, NAD  
HEENT: NCAT, EOMI, sclera anicteric, MMM 
NECK: Supple neck, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, breathing comfortably without use of accessory 
muscles  
ABDOMEN: Soft, +BS, non-distended, non-tender, no HSM
EXTREMITIES: WWP, 2+ DP pulses, trace edema in the feet b/l, 
palpable cords in bilateral calves with associated TTP, 
unchanged from prior
NEURO: Grossly intact
SKIN: Chronic venous stasis changes in b/l ___, no ulcers 
 
Pertinent Results:
==== ADMISSION LABS =====

___ 09:53PM   ___ PTT-40.0* ___
___ 02:21PM   PTT-76.8*
___ 09:54AM   PTT-83.6*
___ 07:30AM   GLUCOSE-95 UREA N-11 CREAT-0.9 SODIUM-140 
POTASSIUM-4.2 CHLORIDE-101 TOTAL CO2-28 ANION GAP-15
___ 07:30AM   ALT(SGPT)-23 AST(SGOT)-23 TOT BILI-2.0*
___ 07:30AM   ALBUMIN-4.4 CALCIUM-8.9 PHOSPHATE-4.3 
MAGNESIUM-2.5
___ 07:30AM   WBC-6.3 RBC-4.82 HGB-15.0 HCT-43.7 MCV-91 
MCH-31.1 MCHC-34.3 RDW-11.7 RDWSD-38.6
___ 07:30AM   PLT COUNT-201
___ 07:30AM   ___ PTT-74.2* ___
___ 12:15AM   ___ PTT-41.6* ___
___ 10:34PM   GLUCOSE-85 UREA N-10 CREAT-0.6 SODIUM-140 
POTASSIUM-3.4 CHLORIDE-108 TOTAL CO2-21* ANION GAP-14
___ 10:34PM   estGFR-Using this
___ 10:34PM   CK(CPK)-52
___ 10:34PM   WBC-7.9 RBC-4.43* HGB-13.7 HCT-40.5 MCV-91 
MCH-30.9 MCHC-33.8 RDW-11.5 RDWSD-38.7
___ 10:34PM   NEUTS-60.2 ___ MONOS-10.9 EOS-4.7 
BASOS-0.8 IM ___ AbsNeut-4.74 AbsLymp-1.81 AbsMono-0.86* 
AbsEos-0.37 AbsBaso-0.06
___ 10:34PM   PLT COUNT-230

==== PERTINENT LABS ====

___ 10:10AM BLOOD ___ PTT-37.9* ___
___ 07:00AM BLOOD ___ PTT-46.6* ___
___ 09:53PM BLOOD ___ PTT-40.0* ___
___ 07:30AM BLOOD ___ PTT-74.2* ___

==== PERTINENT IMAGING ====

CT A/P W/WO CONTRAST (___):
Slightly limited evaluation of the pelvic venous structures due 
to sub-optimal opacification but no large filling defect is 
identified in the common or external iliac veins.  Filling 
defects at the common femoral veins are better assessed on 
concurrent ultrasound.  Extensive venous collaterals within the  
subcutaneous soft tissues and in the abdomen. 

___ (___):
1. Bilateral nonocclusive DVTs involving the common femoral 
veins extending 
into the mid and distal superficial femoral veins.  Chronicity 
of these DVTs is difficult to assess. 
2.  Lack of respiratory variation in the common femoral veins 
bilaterally 
suggestive of possible upstream thrombus. 
  

 
Brief Hospital Course:
___ man with a history of antithrombin deficiency 
complicated by extensive PEs s/p IVC filter placement ___ years 
ago, mesenteric ischemia s/p small bowel resection, and 
recurrent DVTs, who p/w extensive bilateral lower extremity DVTs 
while on warfarin.

ACTIVE ISSUES: 
# Antithrombin Deficiency/Extensive DVT of b/l ___: Patient with 
h/o recurrent DVT while on slightly sub-therapeutic warfarin 
(outpatient INR goal had been ___, presented to OSH w/ INR 1.9), 
found to have extensive DVTs of both lower extremities. CT scan 
showing non-occlusive thrombi in b/l common femoral veins, 
cannot exclude possibility of extension into iliacs, cannot 
assess IVC filter as not visible on CT pelvis. Per heme/onc, 
DVTs most likely ___ sub-therapeutic INR in the setting of 
infrequent INR checks and EtOH use. No symptoms of PE and no ECG 
changes suggestive of R heart strain. He was maintained on an 
argatroban drip for 1 day, then restarted on warfarin with dose 
increased to 4mg daily with a new goal INR of 2.5-3.5. His INR 
at discharge was 2.2, and he was discharged with a bridge of 
lovenox. At Hematology follow up consideration will be given to 
switching from warfarin to NOAC (likely dabigatran) as an 
outpatient. Per vascular surgery recommendations, applied ACE 
wraps to calves and elevated legs, and pt given compression 
stockings to use as outpatient. He will follow up in clinic with 
hematology and vascular surgery. His INR will continue to be 
monitored by his PCP. A warm hand-off via telephone call was 
given to his PCP to communicate the change in his INR goal and 
plan for bridging to therapeutic INR with Lovenox.

# Foot paresthesias: No h/o diabetes or neuropathy-causing 
medications, may be from compression related to venous stasis. 
Can work-up as outpatient and consider gabapentin for sx relief. 


CHRONIC ISSUES: 
# HTN: History of HTN managed with CCB, BPs normotensive to 
mildly hypertensive while inpatient. Home nifedipine 60 mg was 
initially held given normotension, and was restarted prior to 
discharge. 

# EtOH use: Patient with remote history of heavy alcohol use, 
reports decreased but still risky EtOH use now (~16 drinks a 
week). Out of the window for EtOH withdrawal (last drink >3 days 
ago). Per heme/onc, EtOH use may contribute to sub-therapeutic 
INR. Was seen by SW, who assessed him as in the 
pre-contemplative stage of change with regards to his alcohol 
use. Counseling provided by SW.

# TRANSITIONAL ISSUES
- Discharged on lovenox bridge with increased warfarin dose of 
4mg daily.
- Patient should have INR checked on day after discharge, 
___. PCP to follow up result and contact patient to provide 
guidance regarding whether he needs to continue Lovenox 
injections or not.
- Needs more frequent INR checks as outpatient and *** new goal 
INR 2.5-3.5 ***
- Hematologist to discuss possibility of switching from warfarin 
to NOAC (e.g., dabigatran)
- Outpatient tx of foot paresthesias, consider gabapentin if 
persists
- Vascular surgery follow up in 2 weeks with consideration of 
repeat imaging at that time to evaluate clot burden
- Patient counseled to return to ED if he experiences symptoms 
consistent with either pulmonary embolism, phlegmasia ___ or 
___ dolens
- Please provide ongoing counseling regarding alcohol use
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Warfarin 3 mg PO DAILY16 
2. NIFEdipine CR 60 mg PO DAILY 

 
Discharge Medications:
1.  Enoxaparin Sodium 100 mg SC Q12H 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
First dose at 8AM of ___. To be continued until advised 
otherwise by your PCP. 
RX *enoxaparin 100 mg/mL 100 mg SC every twelve (12) hours Disp 
#*4 Syringe Refills:*2 
2.  Warfarin 4 mg PO DAILY16 
RX *warfarin 4 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
3.  NIFEdipine CR 60 mg PO DAILY  
4.Outpatient Lab Work
ICD-10 Code: ___
Please draw ___, PTT, INR on ___
Fax results to PCP, ___ (Fax: ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnoses:
- Bilateral lower extremity non-occlusive DVTs (in the common 
femoral veins extending into the mid and distal superficial 
femoral veins)
- Antithrombin III deficiency

Secondary Diagnosis:
- Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ 
(___) with blood clots in your legs, which were likely caused 
by your antithrombin deficiency.  

You underwent a CT scan of your pelvis which confirmed the 
presence of the clots in your legs. You received medications by 
IV to help thin your blood and prevent the clots from extending. 
You did not have any signs or symptoms of clots in your lungs. 

You were seen by the hematology (blood) doctors, who recommended 
you continue to take warfarin (but at a higher dose), have your 
INR monitored more frequently, and follow-up with a 
hematologist. They also recommended a new INR goal of 2.5-3.5. 
You will need to have your INR rechecked on ___ by 
your PCP.

You were given compression stockings to wear to help prevent 
blood clots. Please continue to wear these stockings at home 
until the blood clots resolve. Your PCP can advise you as to 
when to discontinue these stockings. Please be sure to get out 
of bed and walk around frequently, as this also helps prevent 
blood clots.   

If you have any chest discomfort or shortness of breath, please 
return to the emergency department/hospital immediately. Please 
monitor your bowel movements for any evidence of blood ("black" 
or "red" stools) which should prompt you to return to the 
emergency department/hospital immediately.

It was a pleasure to take care of you during your hospital stay.

Sincerely,

Your ___ Care Team
 
Followup Instructions:
___